US04551457
2-amino-5-chloro-thiazole hydrochloride (8 g) was reacted with 4-chloroacetoacetate (15.8 g) in polyphosphoric acid (40 g) under stirring at 110° C. for 1 hour. After cooling, dilution with water and neutralization with 35% NaOH, the precipitate was filtered and washed with water. Crystallization from isopropyl ether gave 2-chloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 123°-125° C. (7.45 g), which was reacted with triphenylphosphine (9.42 g) in acetonitrile (100 ml) under stirring at reflux temperature for 10 hours. After cooling the precipitate was filtered and washed with acetonitrile to give (2-chloro-5H-thiazolo[3,2-a]pyrimidine-5-one-7-yl)-methyl-triphenylphosphonium chloride, m.p. 300°-310° C. dec. (10 g) which was suspended in dimethylsulfoxide (40 ml) and treated with potassium tert-butoxide (2.48 g) dissolved in dimethylsulfoxide (40 ml) at room temperature under stirring for 10 minutes. To the solution of the ylide so obtained 5 -formyl-2-methyl-thiazole (3.1 g) dissolved in dimethylsulfoxide (20 ml) was added and the reaction mixture was kept under stirring at room temperature for 15 minutes: after dilution with ice water and neutralization with NaH2PO4 the precipitate was filtered and crystallized from CH2Cl2 -methanol to give 3.4 g of 2-chloro-7-trans-[2-(2-methyl-5-thiazolyl)-ethenyl]-5H-thiazolo[3,2-a]pyrimidine-5-one, m.p. 224°-226° C., NMR (CDCl3) δ ppm: 2.97 (s) (3H, --CH3), 6.61 (s) (1H, C-6 proton), 6.78 (d) (1H, β-ethenyl proton), 7.82 (d) (1H, α-ethenyl proton), 7.88 (s) (1H, C-3 proton), 8.02 (s) (1H, C-4 thiazolyl proton); JHαHβ =16 Hz.

reactant | 2-amino-5-chloro-thiazole hydrochloride | 8 g | Cl.NC=1SC(=CN1)Cl
reactant | 4-chloroacetoacetate | 15.8 g | ClCC(CC(=O)[O-])=O
product | 2-chloro-7-chloromethyl-5H-thiazolo[3,2-a]pyrimidine-5-one | ClC1=CN2C(=NC(=CC2=O)CCl)S1 | C7H4Cl2N2OS
